US06426346B1
Part E. Preparation of 2-(t-butylaminosulfonyl)phenylboronic acid
To a solution of 206.5 g (0.968 mol) of benzene-(N-t-butyl)sulfonamide in 2500 mL of THF under N2 was added 790 mL (1.98 mol) of 2.5M n-butyllithium in hexane over 35 minutes, keeping the temperature between 0-5° C. The reaction mixture was allowed to warm to 10° C., at which time a thick precipitate formed. Triisopropylborate (305 mL, 1.32 mol) was added keeping the temperature below 35° C. After 1 hour, the reaction mixture was cooled, 1N HCl (1570 mL) was added, and the mixture was stirred overnight. The mixture was extracted with 400 mL of ether three times, and the combined organic extracts were extracted with 500 mL of 1N NaOH three times. The aqueous extracts were acidified to pH 1 with 6N HCl and then extracted with 500 mL ether three times. The combined ether extracts were dried over MgSO4, and the solvents evaporated in vacuo until the volume was 700 mL. Hexane (150 mL) was added and overnight, a white precipitate formed. The solid was collected and washed with 10% ether/hexane (250 mL), then dried in vacuo to give 216.3 g (87%) of the desired compound as white crystals. m.p. 118-119° C.; 1H NMR (CDCl3): δ8.00 (d, 1H); 7.82 (d, 1H); 7.53 (m, 2H); 6.29 (br s, 2H); 5.13 (s, 1H); 1.18 (s, 9H).

reactant | benzene (N-t-butyl)sulfonamide | 0.968 mol, 206.5 g | C1=CC=CC=C1.C(C)(C)(C)NS(=O)=O
reactant | n-butyllithium | 1.98 mol, 2.5M, 790 mL | C(CCC)[Li]
reactant | Triisopropylborate | 1.32 mol, 305 mL | C(C)(C)OB(OC(C)C)OC(C)C | C9H21BO3
reactant | HCl | 1N, 1570 mL | Cl | ClH
solvent | THF | 2500 mL | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 2-(t-butylaminosulfonyl)phenylboronic acid | 216.3 g, 87% | C(C)(C)(C)NS(=O)(=O)C1=C(C=CC=C1)B(O)O | C10H16BNO4S
